US09212348B2
Synthesis of ethyl 2-(4-hexylphenyl)acetate
5.5 g (25 mmol) of 2-(4-hexylphenyl)acetic acid was dissolved in 11 mL of ethanol and mixed with 1.1 g (11.2 mmol) of sulfuric acid and stirred at 60° C. for 1 hour. The reaction was quenched with cold saturated aqueous sodium carbonate (100 ml), and the reaction solution was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and filtered, and the filtrate was concentrated under reduced pressure to give 5.68 g of the desired product as a pale yellow oil.

reactant | 2-(4-hexylphenyl)acetic acid | 25 mmol, 5.5 g | C(CCCCC)C1=CC=C(C=C1)CC(=O)O | C14H20O2
reactant | sulfuric acid | 11.2 mmol, 1.1 g | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 11 mL | C(C)O | C2H6O
product | ethyl 2-(4-hexylphenyl)acetate | 5.68 g | C(CCCCC)C1=CC=C(C=C1)CC(=O)OCC | C16H24O2
